US07420055B2
Synthesis N-[4-Chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-4-(2-methyl-oxazol-5-yl)-benzenesulfonamide
The title compound was prepared according to the general procedure for the preparation of N-aryl-benzenesulfonamides using 4-(2-methyl-oxazol-5-yl)-benzenesulfonyl chloride and (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone and purified by HPLC. MS: m/z 468.0 (M++1).

reactant | 4-(2-methyl-oxazol-5-yl)-benzenesulfonyl chloride | CC=1OC(=CN1)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H8ClNO3S
reactant | (2-Amino-5-chloro-phenyl)-(6-methyl-pyridin-2-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=NC(=CC=C1)C | C13H11ClN2O
product | N-[4-Chloro-2-(6-methyl-pyridine-2-carbonyl)-phenyl]-4-(2-methyl-oxazol-5-yl)-benzenesulfonamide | ClC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C1=CN=C(O1)C)C(=O)C1=NC(=CC=C1)C | C23H18ClN3O4S
